US07981879B2
To a solution of 9-[(benzyloxy)methyl]-2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidin-8-ium trifluoroacetate in MeOH, Boc2O (1.2 eq.) was added and the mixture was aged overnight at room temperature. Activated charcoal was added and the mixture was stirred for 30 minutes at room temperature, then was filtered through celite and concentrated under reduced pressure. Required tert-butyl 9-[(benzyloxy)methyl]-2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate was obtained after trituration with ethyl ether and further reacted. MS (ES) C28H31FN4O6 requires 538. Found: 539 (M+H+). The crude organic product was solubilized in methanol, treated with 1.2 eq. of 1N HCl and the solution was stirred overnight under a hydrogen atmosphere in the presence of catalytic 10% Pd/C. Catalyst was then filtered off through celite, and the filtrate was neutralized with NaHCO3 and concentrated under reduced pressure. The resulting residue was taken in CHCl3, the insoluble material was filtered off and the filtrate was evaporated to afford title compound as a slightly colored solid. MS (ES) C21H25FN4O6 requires 448. Found: 449 (M+H+).

reactant | 9-[(benzyloxy)methyl]-2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidin-8-ium trifluoroacetate | FC(C(=O)[O-])(F)F.C(C1=CC=CC=C1)OCC1[NH2+]CCN2C1=NC(=C(C2=O)O)C(=O)NCC2=CC=C(C=C2)F
reactant | Boc2O | 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | charcoal | C | CH4
solvent | MeOH | CO | CH4O
product | tert-butyl 9-[(benzyloxy)methyl]-2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4,6,7,9-tetrahydro-8H-pyrazino[1,2-a]pyrimidine-8-carboxylate | C(C1=CC=CC=C1)OCC1N(CCN2C1=NC(=C(C2=O)O)C(=O)NCC2=CC=C(C=C2)F)C(=O)OC(C)(C)C | C28H31FN4O6
